US05089514
E. 5-(2,2-Dimethoxyethyl)-2-[(5-methyl-2-phenyl-4-oxazolyl)methyl]benzofuran
A solution of 5-(2-methoxyethenyl)-2-(5-methyl-2-phenyl-4-oxazolyl)methylbenzofuran (0.69 g, 2.0 mmol) and p-toluenesulfonic acid monohydrate (40 mg, 0.21 mmol) in methanol (30 ml) was heated to reflux overnight. The solvent was removed, the residue was taken up in ethyl acetate, the solution was washed with 5% sodium bicarbonate and brine, dried over magnesium sulfate and concentrated to an oil which slowly solidified on standing (0.75 g).

reactant | 5-(2-methoxyethenyl)-2-(5-methyl-2-phenyl-4-oxazolyl)methylbenzofuran | 2.0 mmol, 0.69 g | COC=CC=1C=CC2=C(C=C(O2)CC=2N=C(OC2C)C2=CC=CC=C2)C1 | C22H19NO3
reactant | p-toluenesulfonic acid monohydrate | 0.21 mmol, 40 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 30 ml | CO | CH4O
product | 5-(2,2-Dimethoxyethyl)-2-[(5-methyl-2-phenyl-4-oxazolyl)methyl]benzofuran | COC(CC=1C=CC2=C(C=C(O2)CC=2N=C(OC2C)C2=CC=CC=C2)C1)OC | C23H23NO4
